US07598264B2
Step 9: N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylacetamide
To N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]acetamide (0.073 g, 0.196 mmol) in 2 mL DMF was added Cs2CO3 (0.084 g, 0.25 mmol) and methyl iodide (0.044 mL, 0.7 mmole) and the reaction was stirred overnight at room temperature. The solvent was removed and the residue was partitioned between CHCl3 and 10% KHSO4, the organic was dried with Na2SO4, filtered and evaporated to give the crude product.

reactant | N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]acetamide | 0.196 mmol, 0.073 g | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)NC(C)=O)C)=O)OC)=O)C=C1 | C19H20FN3O4
reactant | Cs2CO3 | 0.25 mmol, 0.084 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 0.7 mmole, 0.044 mL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylacetamide | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)N(C(C)=O)C)C)=O)OC)=O)C=C1 | C20H22FN3O4
